US06627629B2
Part A: Preparation of 5-nitro-indazole-1-carboxylic acid t-butyl ester
In a dry flask 5-nitro-indazole (1.03 g, 6.2 mmol) was dissolved in tetrahydrofuran (25 mL), cooled to 0° C. and sodium hydride (60% in mineral oil, washed with hexanes, 0.25 g) was added. The reaction was stirred for 10 minutes, di-t-butyl dicarbonate (1.35 g, 6.2 mmol) was added and the reaction stirred an additional 10 minutes. The reaction mixture was diluted with ethyl acetate extracted with water and brine, and concentrated in vacuo to give a white solid (1.61 g, 100%). 1H NMR (300 MHz, CDCl3), δ: 8.71 (d, J=2, 1H), 8.43 (dd, J=9, J′=2, 1H), 8.35 (s, 1H), 8.34 (d, J=9, 1H), 1.75 (s, 9H).

reactant | 5-nitro-indazole | 6.2 mmol, 1.03 g | [N+](=O)([O-])C=1C=C2C=NNC2=CC1 | C7H5N3O2
reactant | sodium hydride | 0.25 g | [H-].[Na+]
reactant | di-t-butyl dicarbonate | 6.2 mmol, 1.35 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-nitro-indazole-1-carboxylic acid t-butyl ester | 1.61 g, 100% | C(C)(C)(C)OC(=O)N1N=CC2=CC(=CC=C12)[N+](=O)[O-] | C12H13N3O4
